US08486941B2
To a solution of methyl 4-(2-chloro-5-methylpyrimidin-4-yl)-2-methoxybenzoate (165 mg, 0.56 mmol) in 1,4-dioxane (5 mL) was added 4-morpholinoaniline (96 mg, 0.54 mmol) and p-toluenesulfonic acid monohydrate (97 mg, 0.51 mmol). The reaction was heated at reflux for 40 h, cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer was extracted twice more with ethyl acetate and the combined organic fractions were washed twice with 5% aqueous citric acid, water, brine then dried (sodium sulfate) filtered and concentrated to afford the crude product. Trituration with methanol provided methyl 4-(2-(4-morpholinophenylamino)-5-methylpyrimidin-4-yl)-2-methoxybenzoate as a yellow solid (77 mg, 32%); 1H NMR (300 MHz, d6-DMSO) δ 9.36 (s, 1H), 8.38 (s, 1H), 7.76 (d, J=8.1 Hz, 1H), 7.62 (d, J=9.0 Hz, 2H), 7.38 (s, 1H), 7.27 (d, J=8.1 Hz, 1H), 6.88 (d, J=9.0 Hz, 2H), 3.89 (s, 3H), 3.82 (s, 3H), 3.72 (m, 4H), 3.01 (m, 411), 2.12 (s, 3H); LC-ESI-MS (method B): rt 6.7 min.; m/z 435.3 [M+H]+.

reactant | methyl 4-(2-chloro-5-methylpyrimidin-4-yl)-2-methoxybenzoate | 0.56 mmol, 165 mg | ClC1=NC=C(C(=N1)C1=CC(=C(C(=O)OC)C=C1)OC)C | C14H13ClN2O3
reactant | 4-morpholinoaniline | 0.54 mmol, 96 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | p-toluenesulfonic acid monohydrate | 0.51 mmol, 97 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | CO | CH4O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(2-(4-morpholinophenylamino)-5-methylpyrimidin-4-yl)-2-methoxybenzoate | 77 mg, 32% | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)C1=CC(=C(C(=O)OC)C=C1)OC)C | C24H26N4O4
